Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with h/o ulcerative colitis s/p total
colectomy with J pouch anastomosis and loop ileostomy followed 
by
ileostomy reversal ___, ___) who presents with
abdominal pain, nausea, and vomiting that started at 2am the
night prior to presentation (about 24hrs ago). Complains of
diffuse abdominal pain with foci of sharp ___ pain in RLQ. Has
unable to keep down food or fluids due to nausea and vomiting.
Last BM at 4pm yesterday. Had one prior episode of SBO in ___,
which was treated non-operatively at ___. Patient
seen in Urgent Care at ___ and referred to ___ ED.

Of note (per patient and ___ notes), patient was scheduled to
get her first dose of Remicade today for "ulcerative colitis"
with her gastroenterologist at ___, Dr. ___. Upon
further questioning, patient says that despite her surgery, she
has had ongoing symptoms of bloating, intermittent pain, and
occasional bloody stools. Supposedly these symptoms were thought
to be due to pouchitis by her GI doctor. She has been told that
she has areas of "inflammation" at her RLQ based on imaging, but
denies Crohn's diagnosis. She has supposedly seen multiple
surgeons for this who all advised medical therapy - she has been
on multiple medications (which she cannot recall) which have not
improved her symptoms. She reports having been on prednisone 10
mg daily until this past ___ but says she has been on
cipro/flagyl since then. 

 
Past Medical History:
ulcerative colitis, T2DM
PSH: total colectomy with J pouch anastomosis and loop ileostomy 
and ileostomy reversal ___,
___

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.7 HR 89 BP 106/63 RR: 16 O2  97RA
Gen: AAOx3, NAD
CV: RRR Pulm: CTA
Abd: S/nd; no guarding, no rebound, no frank peritonitis. 
midline scar well healed
Ext: no cce
 
Pertinent Results:
___ 08:53PM   PLT SMR-NORMAL PLT COUNT-350
___ 08:53PM   HYPOCHROM-OCCASIONAL ANISOCYT-OCCASIONAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-OCCASIONAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL TEARDROP-OCCASIONAL
___ 08:53PM   NEUTS-27* BANDS-55* LYMPHS-9* MONOS-9 EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-5.00 AbsLymp-0.55* 
AbsMono-0.55 AbsEos-0.00* AbsBaso-0.00*
___ 08:53PM   HCG-<5
___ 08:53PM   HCG-<5
___ 08:53PM   ALBUMIN-4.6
___ 08:53PM   LIPASE-17
___ 08:53PM   ALT(SGPT)-12 AST(SGOT)-13 ALK PHOS-103 TOT 
BILI-0.5
___ 08:53PM   estGFR-Using this
___ 08:53PM   GLUCOSE-148* UREA N-16 CREAT-0.8 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-24 ANION GAP-18
___ 12:15AM URINE  MUCOUS-MANY
___ 12:15AM URINE  GRANULAR-2* HYALINE-9*
___ 12:15AM URINE  RBC-12* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 12:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-80 BILIRUBIN-SM  UROBILNGN-2* PH-6.0 LEUK-NEG
___ 12:15AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:15AM URINE  GR HOLD-HOLD
___ 12:15AM URINE  UCG-NEG
___ 12:15AM URINE  HOURS-RANDOM
___ 12:15AM URINE  HOURS-RANDOM
___ 12:24AM   LACTATE-2.1*
 
Brief Hospital Course:
___ h/o UC s/p total colectomy w J pouch admitted for s/s of SBO 
by clinical exam, symptoms, and evidenced on imaging on 
___. She was managed conservatively with NPO, IV fluid 
resuscitation, serial examination, and pain management. 
N:pt was AAOx3 throughout hospitalization. pain was managed with 
IV dilaudid
CV: Cardiovascular functions were monitored routinely 
noninvasively and pt was hemodynamically stable.
Pulm: Pulmonary toilet was encouraged
GIGUFEN: pt remains NPO with NGT decompression as stated. pt's 
fluid balance was recorded and electrolytes were repleted 
appropriately.
ID: pt was afebrile throughout hospitalization.
DVT ppx was given as HSQ.
As pt is well known and followed by GI at ___ as well as being 
treated for IBD, is transferred to ___ for continuation of care. 
Upon d/c, pt was doing well, afebrile, and hemodynamically 
stable wnl. pt is understanding of current situation of her 
transfer. pt verbalizes agreement and understanding of discharge 
plans.

 

 
Discharge Medications:
1. HYDROmorphone (Dilaudid) 0.25 mg IV Q4H:PRN pain 
2. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___,
You were admitted to the ACS service for an episode of small 
bowel obstruction. You were being managed conservatively for 
this condition. You have elected to be transferred to ___ for 
continuation of care. Best of luck on your recovery! 
 
Followup Instructions:
___